### PR TITLE
[Merged by Bors] - chore(Algebra/BigOperators): reverse `Finsupp` <-> `Fin` import direction

### PR DESCRIPTION
**Pull request by Vierkantor**
This was spotted while looking at the files depending on `Data.Finset.Image` and `Data.Finset.Fin`.

By reversing the import order between `BigOperators.Finsupp` and `BigOperators.Fin` we can avoid importing a lot of work on `Fin` that we don't need. Especially in linear algebra and related topics that import saves a bit. On the other hand, some files do have their import graph grow a bit. But I think the tradeoff is definitely worth it.

And moreover, it makes a follow-up PR moving `Finset.fin` downstream from `Data.Finset.Image` to `Data.Finset.Fin` work a bit better.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/BigOperators/Fin.lean [hunk 1]
```diff
@@ -475,3 +477,21 @@ theorem alternatingProd_eq_finset_prod {G : Type*} [CommGroup G] :
...
+  exact Fin.sum_cons i σ
+
+lemma sum_cons' [AddCommMonoid M] [AddCommMonoid N] (n : ℕ) (σ : Fin n →₀ M) (i : M)
+    (f : Fin (n+1) → M → N) (h : ∀ x, f x 0 = 0) :
+    (sum (Finsupp.cons i σ) f) = f 0 i + sum σ (Fin.tail f) := by
+  rw [sum_fintype _ _ (fun _ => by apply h), sum_fintype _ _ (fun _ => by apply h)]
+  simp_rw [Fin.sum_univ_succ, cons_zero, cons_succ]
+  congr
+
+end Finsupp
```
Comment (eric-wieser) [inline Mathlib/Algebra/BigOperators/Fin.lean:497]: I'd be inclined to move these to a new `BigOperators/Finsupp/Fin.lean`, which should further reduce the weight on downstream files that don't need `Finsupp`.

Comment (eric-wieser) [reply Mathlib/Algebra/BigOperators/Fin.lean:497]: Otherwise,

bors d+

Comment (Vierkantor) [reply Mathlib/Algebra/BigOperators/Fin.lean:497]: It's going to be a rather small file, which is why I started by flipping the import direction would be better. But small files are no issue for me! :)

**Comment by Vierkantor** [comment]
Build passed so:

bors r+
